US06426345B1
To a solution of iodobenzene (3.53 ml) in ether (10 ml) was added n-butyllithium (1.6M in hexane, 20 ml), and the mixture was stirred at room temperature for 20 minutes. The above solution was added to a solution of 2-chloropyrimidine (3.52 g) in ether (90 ml) at −30° C. The mixture was stirred at −30° C. for 30 minutes and then at 0° C. for 30 minutes, quenched with a solution of acetic acid (1.83 ml) and water (0.31 ml) in tetrahydrofuran (6 ml), and treated with 2,3-dichloro-5,6-dicyanobenzoquinone (DDQ) (7.26 g) in tetrahydrofuran (30 ml). The mixture was stirred at 0° C. for 5 minutes, cooled to 0° C., treated with a cold aqueous solution of sodium hydroxide (3M, 9.2 ml), and stirred at 0° C. for 5 minutes. The organic phase was separated, washed with water and brine, dried over magnesium sulfate, concentrated and subjected to silica gel column chromatography (hexane-ethyl acetate, 7:3) to afford 2-chloro-4-phenylpyrimidine (3.39 g) as a solid.

reactant | iodobenzene | 3.53 ml | IC1=CC=CC=C1 | C6H5I
reactant | n-butyllithium | 1.6M, 20 ml | C(CCC)[Li]
reactant | 2-chloropyrimidine | 3.52 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 90 ml | CCOCC | C4H10O
product | 2-chloro-4-phenylpyrimidine | 3.39 g | ClC1=NC=CC(=N1)C1=CC=CC=C1 | C10H7ClN2
